US07459472B2
4-Trifluoromethylphenylboronic acid (0.815 g, 4.29 mmol) was added to a solution of 5-Bromo-3-chloro-2-methoxy-benzoic acid methyl ester (1.0 g, 3.57 mmol), Pd(PPh3)4 (0.2 g, 0.178 mmol) and CsF (1.08 g, 7.15 mmol) in DME (10 mL ) and heated at 85° C. for 10 h. The reaction was diluted with EtOAc (20 mL) and filtered, filtrate was washed water, brine and dried over Na2SO4. Solvent was removed under reduced pressure and the silicagel column chromatography gave pure 5-Chloro-4-methoxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester (0.94 g).

reactant | 4-Trifluoromethylphenylboronic acid | 4.29 mmol, 0.815 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 5-Bromo-3-chloro-2-methoxy-benzoic acid methyl ester | 3.57 mmol, 1.0 g | COC(C1=C(C(=CC(=C1)Br)Cl)OC)=O | C9H8BrClO3
reactant | CsF | 7.15 mmol, 1.08 g | [F-].[Cs+]
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.178 mmol, 0.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Chloro-4-methoxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester | 0.94 g | COC(=O)C=1C=C(C=C(C1OC)Cl)C1=CC=C(C=C1)C(F)(F)F | C16H12ClF3O3
